US04761486
420 ml of oxalyl chloride were added at 0° to 5° C. to 141.2 g (0.5 mol) of 2-butyryl-3-hydroxy-5-(tetrahydrothiopyran-3-yl)cyclohex-2-en-1-one, and the mixture was stirred at room temperature for 16 hours and concentrated. The oil obtained was treated with methyl tert.-butyl ether, and the resulting solid was filtered off with suction and dried. This gave 125.9 g (84% yield) of 2-butyryl-3-chloro-5-(tetrahydrothiopyran-3-yl)cyclohex-2-en-1-one having a melting point of 97° C. (decomposition) (compound no. 312).

reactant | oxalyl chloride | 420 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-butyryl-3-hydroxy-5-(tetrahydrothiopyran-3-yl)cyclohex-2-en-1-one | 0.5 mol, 141.2 g | C(CCC)(=O)C=1C(CC(CC1O)C1CSCCC1)=O | C15H22O3S
solvent | methyl tert.-butyl ether | C(C)(C)(C)OC | C5H12O
product | 2-butyryl-3-chloro-5-(tetrahydrothiopyran-3-yl)cyclohex-2-en-1-one | 125.9 g, 84% yield | C(CCC)(=O)C=1C(CC(CC1Cl)C1CSCCC1)=O | C15H21ClO2S
